US09447044B2
Step A: 2-ethylsulfanyl-nicotinic acid
2-Mercapto-nicotinic acid (2 g, 12.8 mmol) and bromoethane were reacted in the same manner as in Step A of Preparation Example 1 to obtain the title compound (1.9 g, 80%).

reactant | 2-Mercapto-nicotinic acid | 12.8 mmol, 2 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | bromoethane | BrCC | C2H5Br
product | 2-ethylsulfanyl-nicotinic acid | 1.9 g, 80% | C(C)SC1=C(C(=O)O)C=CC=N1 | C8H9NO2S
